* C:\Users\iwamoto\Desktop\sound_remocon_kicad\mixer_circuit.asc
R4 N008 N005 20k
XU1 N006 N005 N001 0 N008 LT1001
V1 N001 0 3.3
R5 N001 N006 10k
R6 N006 0 10k
R7 N014 N010 10k
C4 N014 0 0.001µ
R8 output 0 100k
C5 output N014 4.7µ
V5 N002 0 PULSE(0 3.3 0 0 0 1m 2m)
R9 N002 N003 3k
R10 N003 0 1k
C8 N004 N003 1µ
R11 N005 N004 10k
V2 N007 0 PULSE(0 3.3 0 0 0 0.833m 1.666m)
R1 N007 N011 3k
R2 N011 0 1k
C1 N012 N011 1µ
R3 N005 N012 10k
V3 N015 0 PULSE(0 3.3 0 0 0 0.714m 1.428m)
R12 N015 N016 3k
R13 N016 0 1k
C2 N017 N016 1µ
R14 N005 N017 10k
XU2 N006 N009 N001 0 N010 LT1001
R15 N009 N013 10k
R16 N010 N009 20k
C3 N013 N008 1µ
.tran 3
.lib LTC.lib
.backanno
.end
